US08604211B2
Preparation of 3-(5-bromo-[1,3,4]thiadiazol-2-yl)pyridinium hydrobromide
To a solution of aqueous hydrobromic acid (48%, 17 mL) at 5° C. in an ice bath was added 5-pyridin-3-yl-[1,3,4]thiadiazol-2-ylamine (6 g, 33 mmol) followed by bromine (12.8 mL, 0.24 mol) at a rate such that the reaction mixture was kept at a temperature below 11° C. A solution of sodium nitrite (6 g, 85 mmol) in water (8.5 mL) was added at a rate such that the reaction mixture maintained a temperature of around 5° C. The reaction mixture was kept at 2° C. for 2 hours, and then made basic to pH 8.9 using dilute NaOH at a rate needed to maintain the temperature between 5° C. and 15° C. The resulting solids were collected by filtration, washed with ice-cold water (200 mL) until filtrate was acidic (pH 4), and dried in vacuo at 35° C. to afford the title compound as an orange powder (8.68 g, 80%): mp 124-129° C.; IR (KBr thin film) 1374, 1026 cm−1; 1H NMR (300 MHz, DMSO-d6) δ 9.17 (d, J=1.8 Hz, 1H), 8.80 (dd, J=4.5, 0.9 Hz, 1H), 8.42 (dt, J=8.4, 1.8 Hz, 1H), 7.67 (ddd, J=7.2, 4.8, 0.9 Hz, 1H); ESIMS m/z 244 (M+2).

reactant | hydrobromic acid | 17 mL | Br | BrH
reactant | 5-pyridin-3-yl-[1,3,4]thiadiazol-2-ylamine | 33 mmol, 6 g | N1=CC(=CC=C1)C1=NN=C(S1)N | C7H6N4S
reactant | bromine | 0.24 mol, 12.8 mL | BrBr | Br2
reactant | sodium nitrite | 85 mmol, 6 g | N(=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | water | 8.5 mL | O | H2O
product | 3-(5-bromo-[1,3,4]thiadiazol-2-yl)pyridinium hydrobromide | 8.68 g, 80% | Br.BrC1=NN=C(S1)C=1C=[NH+]C=CC1 | InChI=1S/C7H4BrN3S.BrH/c8-7-11-10-6(12-7)5-2-1-3-9-4-5;/h1-4H;1H/p+1
